US08669234B2
{1-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-cyclobutyl}-carbamic acid tert-butyl ester (110 mg, 0.28) in 1,4-dioxane (2.5 mL) was treated with bis(pinacolato)diboron (150 mg, 0.59 mmol), Pd(PPh3)4 (13 mg, 0.011 mmol), and KOAc (71 mg, 0.73 mmol). The mixture was stirred in a sealed tube at 80° C. for 18 hours. The mixture was filtered through a fritted glass funnel and concentrated. The mixture was subjected to a reverse phase HPLC column (5-95% MeCN—H2O; 0.1% TFA modifier) to afford {1-[1H-imidazol-2-yl]-cyclobutyl}-carbamic acid tert-butyl ester boronic acid.

reactant | {1-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-cyclobutyl}-carbamic acid tert-butyl ester | 110 mg | C(C)(C)(C)OC(NC1(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C18H22BrN3O2
reactant | bis(pinacolato)diboron | 0.59 mmol, 150 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.73 mmol, 71 mg | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.011 mmol, 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {1-[1H-imidazol-2-yl]-cyclobutyl}-carbamic acid tert-butyl ester boronic acid | B(O)O.C(C)(C)(C)OC(NC1(CCC1)C=1NC=CN1)=O | InChI=1S/C12H19N3O2.BH3O2/c1-11(2,3)17-10(16)15-12(5-4-6-12)9-13-7-8-14-9;2-1-3/h7-8H,4-6H2,1-3H3,(H,13,14)(H,15,16);1-3H
